US08183246B2
4-Chloro-5-phenylfuro[2,3-d]pyrimidine
Add 9.5 ml (101.8 mmol) phosphoryl chloride to 1.8 g (approx. 6.8 mmol) 5-phenylfuro[2,3-d]pyrimidin-4(3H)-one at RT and heat the mixture for 1 h under reflux. Cool the resultant black mixture to RT and carefully add dropwise at <10° C. to a well-stirred solution of 70 ml conc. ammonia solution and 50 ml water cooled to 0° C. (pH>9). At the end of addition, heat the black suspension to RT and stir for a further 15 min. Filter off the black solid with suction, resuspend with water three times, filter with suction again, and dry at high vacuum. Dissolve the solid in dichloromethane and column-filter on silica gel (solvent: dichloromethane). 1371 mg (80.6% of theor.) of the target compound is obtained as a yellow solid.

reactant | phosphoryl chloride | 101.8 mmol, 9.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-phenylfuro[2,3-d]pyrimidin-4(3H)-one | approx. 6.8 mmol, 1.8 g | C1(=CC=CC=C1)C1=COC=2N=CNC(C21)=O | C12H8N2O2
reactant | ammonia | 70 ml | N | H3N
solvent | water | 50 ml | O | H2O
product | 4-Chloro-5-phenylfuro[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)OC=C2C2=CC=CC=C2 | C12H7ClN2O
